US09034866B2
Synthesis of tert-butyl 3-((2-carbamoyl-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepin-10-yl)ethynyl)-3-hydroxypyrrolidine-1-carboxylate
This compound was prepared according to a procedure similar to that described in Procedure H. In a solution of 9-Bromo-4,5-dihydro-6-oxa-1,3a-diaza-benzo[e]azulene-2-carboxylic acid amide (100 mg, 0.32 mmol) in N,N-Dimethyl-formamide (3 mL) were added 1,3-bis(diphenylphosphino)-propane (26 mg, 0.064 mmol), Pd(OAc)2 (7.2 mg, 0.032 mmol), K2CO3 (110 mg, 0.8 mmol), 3-Ethynyl-3-hydroxy-pyrrolidine-1-carboxylic acid tert-butyl ester (136 mg, 0.64 mmol) and CuI (12 mg, 0.064 mmol). Then the solution was bubbled N2 for 5 min and microwaved for 1 h at 120° C. under nitrogen. The reaction mixture was filtrated and the filtrate was purified by column to afford crude titled compound (40 mg, 28%). LCMS=383.0 [M-56]+.

reactant | 9-Bromo-4,5-dihydro-6-oxa-1,3a-diaza-benzo[e]azulene-2-carboxylic acid amide | 0.32 mmol, 100 mg | BrC=1C=CC2=C(C3=NC(=CN3CCO2)C(=O)N)C1 | C12H10BrN3O2
reactant | 1,3-bis(diphenylphosphino)-propane | 0.064 mmol, 26 mg | C1(=CC=CC=C1)P(CCCP(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C27H26P2
reactant | K2CO3 | 0.8 mmol, 110 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | 3-Ethynyl-3-hydroxy-pyrrolidine-1-carboxylic acid tert-butyl ester | 0.64 mmol, 136 mg | C(C)(C)(C)OC(=O)N1CC(CC1)(O)C#C | C11H17NO3
solvent | N,N-Dimethyl-formamide | 3 mL | CN(C=O)C | C3H7NO
catalyst | Pd(OAc)2 | 0.032 mmol, 7.2 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
catalyst | CuI | 0.064 mmol, 12 mg | [Cu]I
product | tert-butyl 3-((2-carbamoyl-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepin-10-yl)ethynyl)-3-hydroxypyrrolidine-1-carboxylate | 40 mg, 28% | C(N)(=O)C=1N=C2N(CCOC3=C2C=C(C=C3)C#CC3(CN(CC3)C(=O)OC(C)(C)C)O)C1 | C23H26N4O5
